US05728907
One mole of tri-n-octylmethylchloride is added to 0.75 liters of methylene chloride and the solution is blanketed with nitrogen and is cooled to 0° C. 0.33 moles of tri-n-octylaluminum is then added and the mixture is allowed to warm to room temperature. The mixture is slowly quenched with 50 ml of water followed by washing with 1 liter of a 10% HCl solution. The organic layer is dried with magnesium sulfate and the solvent is evaporated to give tetra-n-octylmethane.

reactant | tri-n-octylmethylchloride | One mole | C(CCCCCCC)C(CCCCCCCC)(CCCCCCCC)Cl | C25H51Cl
reactant | tri-n-octylaluminum | 0.33 moles | C(CCCCCCC)[Al](CCCCCCCC)CCCCCCCC
solvent | methylene chloride | 0.75 liters | C(Cl)Cl | CH2Cl2
product | tetra-n-octylmethane | C(CCCCCCC)C(CCCCCCCC)(CCCCCCCC)CCCCCCCC | C33H68
